US08168793B2
To a stirred solution of 3,4-dimethoxy-5-nitrobenzoic acid (0.438 g, 1.93 mmol) in tetrahydrofuran (10 mL) at room temperature was added 1,1-carbonyldiimidazole (0.343 g, 2.12 mmol) in one portion and the mixture was stirred at room temperature for one hour, then at 70° C. for two hours, whereupon acetic hydrazide (0.157 g, 2.12 mmol) was added. The resulting was stirred at room temperature for thirty minutes, then at 70° C. for two hours. After cooling to room temperature, the mixture was poured onto ice-water (100 mL) and the precipitate was filtered off and washed with water. 3,4-Dimethoxy-5-nitro-benzoic acid N′-acetyl-hydrazide was obtained as a white solid (0.296 g, 54%).

reactant | 3,4-dimethoxy-5-nitrobenzoic acid | 1.93 mmol, 0.438 g | COC=1C=C(C(=O)O)C=C(C1OC)[N+](=O)[O-] | C9H9NO6
reactant | acetic hydrazide | 2.12 mmol, 0.157 g | C(C)(=O)NN | C2H6N2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3,4-Dimethoxy-5-nitro-benzoic acid N′-acetyl-hydrazide | C(C)(=O)NNC(C1=CC(=C(C(=C1)[N+](=O)[O-])OC)OC)=O | C11H13N3O6
